US09062033B2
6-Cyclopropyl-pyridine-2,3-dicarboxylic acid (D90)
To a solution of 6-cyclopropyl-pyridine-2,3-dicarboxylic acid dimethyl ester (D81, 12.6 g, 53.62 mmol) in methanol (90 ml) and water (30 ml) was added potassium hydroxide (9.02 g, 160.86 mmol) at 0˜5° C. After heated to 60° C. for 2 hours, the mixture was acidified with 1N HCl until pH=5 and then concentrated to give D82 (21.34 g, containing KCl) as a grey solid.

reactant | 6-cyclopropyl-pyridine-2,3-dicarboxylic acid dimethyl ester | 53.62 mmol, 12.6 g | COC(=O)C1=NC(=CC=C1C(=O)OC)C1CC1 | C12H13NO4
reactant | potassium hydroxide | 160.86 mmol, 9.02 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | KCl | [Cl-].[K+]
solvent | methanol | 90 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 6-Cyclopropyl-pyridine-2,3-dicarboxylic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)O)C(=O)O | C10H9NO4
